US08212041B2
6-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinolin-3-ol
To a 5 ml CEM microwave tube was added tert-butyl 2-(3-methoxyquinolin-6-yl)acetate (0.3 g, 1 mmol), 1-(6-phenylpyridazin-3-yl)hydrazine (0.3 g, 2 mmol), and HYDROCHLORIC ACID (0.3 ml, 11 mmol) as solvent. The vial was sealed and first heated at 100° C. for 20 min then placed into CEM microwave for 20 min. at 180° C., with 100 Watts of power via Powermax. The reaction mixture was adjusted the pH to 7 by adding 5 N NaOH. The ppt. was collected by filtration. The ppt. was washed with water and dried. The solid was purified using SiO2 chromatography (Teledyne Isco RediSep®, P/N 68-2203-027, 40 g SiO2, DCM:MeOH=95%:5%, Flow=40 mL/min) to afford the desired product as gray solid. MS m/z: 354.2 (M+H). Calc'd. for C21H15N5O—353.37.

reactant | tert-butyl 2-(3-methoxyquinolin-6-yl)acetate | 1 mmol, 0.3 g | COC=1C=NC2=CC=C(C=C2C1)CC(=O)OC(C)(C)C | C16H19NO3
reactant | 1-(6-phenylpyridazin-3-yl)hydrazine | 2 mmol, 0.3 g | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
reactant | HYDROCHLORIC ACID | 11 mmol, 0.3 ml | Cl | ClH
reactant | NaOH | 5 N | [OH-].[Na+]
product | 6-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinolin-3-ol | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=C(C=NC1=CC2)O | C21H15N5O
